* source GSD_FLORIAN_DAVID_433E
V_VDD         N253698 0 5
R_R6         N254670 0  2.2k TC=0,0 
D_D3         N253698 N253914 BZX84-C2V7 
X_P2         N254432 N254598 0 POT PARAMS: SET=1 VALUE=100
D_D1         N253856 0 MLED81
R_R8         N254616 N254726  330 TC=0,0 
Q_Q2         N253974 N253926 N253850 BC856B 
R_R7         N254230 N254246  2.7k TC=0,0 
R_RL1         N254732 N254598  6.8k TC=0,0 
R_R3         0 N254406  10k TC=0,0 
R_R9         N254218 N254432  330 TC=0,0 
R_R1         N253844 N253698  100 TC=0,0 
D_D4         N254016 N254322 BZX84-C2V7 
Q_Q1         N253926 N253926 N253844 BC856B 
Q_Q5         N254442 N254670 N254780 BC846B 
Q_Q3         N253974 N254406 N254442 BC846B 
Q_Q9         N254616 N254322 N254218 QBC807-25 
R_R5         N254616 N254780  680 TC=0,0 
R_R2         N253850 N253698  100 TC=0,0 
R_RL2         0 N254732  2.2k TC=0,0 
D_D2         N254616 N254670 BZX84-C2V7 
Q_Q4         N253926 N254230 N254442 BC846B 
X_P1         N254246 N254218 N254218 POT PARAMS: SET=0 VALUE=10k
Q_Q7         N254322 N254670 N254726 BC846B 
V_VSS         N254616 0 -5
Q_Q6         N254016 N253974 N253914 BC856B 
Q_Q8         N253698 N254016 N254218 QBC817-25 
R_R10         N253856 N253698  33 TC=0,0 
R_R4         N254406 N254218  10k TC=0,0 
C_C1         0 N254230  5.6n IC=0 TC=0,0 
