* source SCHEMA_CU_CONECTORI
R_R4         N258888 N258690  10k TC=0,0 
R_R2         N258426 V+  100 TC=0,0 
R_RL1         N259214 VO  6.8k TC=0,0 
R_R7         N258702 N258718  2.7k TC=0,0 
Q_Q1         N258502 N258502 N258420 BC856B 
R_R6         N259152 0  2.2k TC=0,0 
R_R9         N258690 N258914  330 TC=0,0 
R_R5         V- N259262  680 TC=0,0 
R_R3         0 N258888  10k TC=0,0 
Q_Q3         N258550 N258888 N258924 BC846B 
D_D4         N258592 BZX84-C2V7 
R_R1         N258420 V+  100 TC=0,0 
X_P1         N258718 N258690 N258690 POT PARAMS: SET=0 VALUE=10k
D_D3         V+ N258490 BZX84-C2V7 
Q_Q4         N258502 N258702 N258924 BC846B 
Q_Q2         N258550 N258502 N258426 BC856B 
D_D2         V- N259152 BZX84-C2V7 
R_R10         N258432 V+  33 TC=0,0 
Q_Q5         N258924 N259152 N259262 BC846B 
Q_Q6         N258592 N258550 N258490 BC856B 
Q_Q8         V+ N258592 N258690 QBC817-25 
Q_Q7         N258796 N259152 N259208 BC846B 
X_P2         0 VO N258914 POT PARAMS: SET=1 VALUE=100
C_C1         0 N258702  5.6n  TC=0,0 
R_R8         V- N259208  330 TC=0,0 
R_RL2         0 N259214  2.2k TC=0,0 
Q_Q9         V- N258796 N258690 QBC807-25 
D_D1         N258432 0 MLED81
